US07855292B2
B. (S)-2-[2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-chloro-benzoylamino]-3-(3,4-dichloro-phenyl)-propionic acid
A mixture of (S)-2-[2-(benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-chloro-benzoylamino]-3-(3,4-dichloro-phenyl)-propionic acid methyl ester (0.81 mmol), THF (10 mL), and LiOH (2 M in water, 5 mL) was stirred vigorously overnight at rt. The mixture was poured into water, acidified to pH 1 with conc. HCl, and extracted with EtOAc (4×). The combined organic layers were dried (Na2SO4) and concentrated to provide the desired acid as a tan solid. The acid was purified by preparative reverse phase HPLC to provide 0.44 g (94%, 2 steps) of the acid as a white solid. HPLC: RT=10.08 min. MS (ESI−): mass calcd. for C22H15Cl3N4S5O2, 583.95; m/z found, 583 [M−H]−. 1H NMR (400 MHz, CD3OD): 8.34 (dd, J=7.0, 1.0, 1H), 8.25 (dd, J=8.8, 1.0, 1H), 7.77 (dd, J=8.8, 7.0, 1H), 7.66 (d, J=2.0, 1H), 7.45-7.37 (m, 3H), 7.18 (dd, J=8.2, 2.0, 1H), 6.99 (dd, J=8.5, 2.1, 1H), 4.75 (dd, J=9.3, 5.2, 1H), 3.28 (dd, J=14.0, 5.1, 1H), 3.03 (dd, J=14.0, 9.4, 1H).

reactant | (S)-2-[2-(benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-chloro-benzoylamino]-3-(3,4-dichloro-phenyl)-propionic acid methyl ester | 0.81 mmol | COC([C@H](CC1=CC(=C(C=C1)Cl)Cl)NC(C1=C(C=C(C=C1)Cl)NS(=O)(=O)C1=CC=CC=2C1=NSN2)=O)=O | C23H17Cl3N4O5S2
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | LiOH | 2 M, 5 mL | [Li+].[OH-]
reactant | HCl | Cl | ClH
solvent | water | O | H2O
product | (S)-2-[2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-chloro-benzoylamino]-3-(3,4-dichloro-phenyl)-propionic acid | N1=C2C(=NS1)C(=CC=C2)S(=O)(=O)NC2=C(C(=O)N[C@H](C(=O)O)CC1=CC(=C(C=C1)Cl)Cl)C=CC(=C2)Cl | C22H15Cl3N4O5S2
